US05210092
To a solution of 1-(4-ethoxycarbonylphenyl)-2-hydroxymethylpyrrole (8.97 g) in dichloromethane (90 ml) was added triethylamine (12.1 ml), 4-dimethylaminopyridine (100 mg) and tert-butylchlorodiphenylsilane (10.6 ml) in that order at 5° C. under nitrogen atmosphere. After stirring for half an hour at 5° C., the mixture was allowed to warm to ambient temperature and stirred for 13.5 hours. The mixture was washed with water and brine, dried, concentrated in vacuo. The residue was purified by column chromatography on silica gel (elution by ethyl acetate/n-hexane=1/7) to yield 2-tert-butyldiphenylsilyloxymethyl-1-(4-ethoxycarbonylphenyl)pyrrole (18.67 g) as an oil.

reactant | 1-(4-ethoxycarbonylphenyl)-2-hydroxymethylpyrrole | 8.97 g | C(C)OC(=O)C1=CC=C(C=C1)N1C(=CC=C1)CO | C14H15NO3
reactant | triethylamine | 12.1 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butylchlorodiphenylsilane | 10.6 ml | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-tert-butyldiphenylsilyloxymethyl-1-(4-ethoxycarbonylphenyl)pyrrole | 18.67 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1N(C=CC1)C1=CC=C(C=C1)C(=O)OCC | C30H33NO3Si
